US07326791B2
N-[(1S)-4-acetylamino-1-(5-chloro-1H-benzimidazol-2-yl)butyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 124 from (1S)—N-[4-amino-1-(5-chloro-1H-benzimidazol-2-yl)butyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide, acetic anhydride, and triethylamine in tetrahydrofuran. Yield: 73%; Rf value: 0.73 (silica gel; dichloromethane/methanol=95:5); C26H30ClN5O3 (496.01); mass spectrum: (M+H)+=496/498 (chlorine isotope) and (M−H)-=494/496 (chlorine isotope).

reactant | (1S)—N-[4-amino-1-(5-chloro-1H-benzimidazol-2-yl)butyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | NCCC[C@@H](C1=NC2=C(N1)C=CC(=C2)Cl)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O | C24H28ClN5O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane methanol | ClCCl.CO
product | N-[(1S)-4-acetylamino-1-(5-chloro-1H-benzimidazol-2-yl)butyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 73% | C(C)(=O)NCCC[C@@H](C1=NC2=C(N1)C=CC(=C2)Cl)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O | C26H30ClN5O3
